US05864039
A solution of 4-(3-tert-butoxycarbonylaminomethylpyrrolidin-1-yl)-butylamine (2.0 g) and benzaldehyde (0.86 g) in ethanol (50 ml) was stirred at 70° C. for 3 hr. After cooling, sodium borohydride was added, and the mixture was stirred at room temperature for 2 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give 1.74 g of N-benzyl-4-(3-tert-butoxycarbonylaminomethylpyrrolidin-1-yl)butylamine.

reactant | 4-(3-tert-butoxycarbonylaminomethylpyrrolidin-1-yl)-butylamine | 2.0 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCCCN | C14H29N3O2
reactant | benzaldehyde | 0.86 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-benzyl-4-(3-tert-butoxycarbonylaminomethylpyrrolidin-1-yl)butylamine | 1.74 g | C(C1=CC=CC=C1)NCCCCN1CC(CC1)CNC(=O)OC(C)(C)C | C21H35N3O2
